US04344958
A mixture of 30.15 g of 3,4-dichloroanilinoacetonitrile and 35.0 g of ethylenediamine p-toluenesulfonate in 110 ml of 1,2-dichlorobenzene was heated at reflux temperature under a small flow of nitrogen for 1.5 hours. The reaction mixture was then cooled and washed with water. The 1,2-dichlorobenzene was concentrated under vacuum and the remaining residue was put in solution in CH2Cl2 and shaken with dilute sodium hydroxide. The CH2Cl2 layer was separated and treated with diatomaceous earth and activated charcoal and then filtered. The filtrate was concentrated to dryness under vacuum and the black gummy residue which remained put in solution in isopropyl alcohol. Gaseous HCl was bubbled through the solution resulting in crystal formation. The mixture was cooled and filtered to obtain the product. Recrystallization from absolute ethanol gave 13.0 g of purified 2-((3,4-dichloroanilino)methyl)-2-imidazoline hydrochloride as tan crystals, m.p. 221°-223° C.

reactant | 3,4-dichloroanilinoacetonitrile | 30.15 g | ClC=1C=C(NCC#N)C=CC1Cl | C8H6Cl2N2
reactant | ethylenediamine p-toluenesulfonate | 35.0 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(CN)N
solvent | 1,2-dichlorobenzene | 110 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 2-((3,4-dichloroanilino)methyl)-2-imidazoline hydrochloride | 13.0 g | Cl.ClC=1C=C(NCC=2NCCN2)C=CC1Cl | InChI=1S/C10H11Cl2N3.ClH/c11-8-2-1-7(5-9(8)12)15-6-10-13-3-4-14-10;/h1-2,5,15H,3-4,6H2,(H,13,14);1H
